US05932601
A mixture of 4-chloromethyl-2-phenyloxazole (10.0 g), vaniline (7.9 g), potassium carbonate (8.6 g) and N,N-dimethylformamide (DMF) (90 ml) was stirred for 2 hours at 100° C. The reaction mixture was poured into ice-water. Resulting crystalline precipitate was collected by filtration, which was dissolved in chloroform (400 ml). The chloroform layer was washed with water, dried (MgSO4) and concentrated. Residual crystalline product was collected by filtration to yield 3-methoxy-4-(2-phenyl-4-oxazolylmethoxy)benzaldehyde (15.4 g, 97%), which was recrystallized from ethyl acetate-hexane to give colorless prisms, m.p.119-120° C.

reactant | 4-chloromethyl-2-phenyloxazole | 10.0 g | ClCC=1N=C(OC1)C1=CC=CC=C1 | C10H8ClNO
reactant | vaniline | 7.9 g | COC1=C(C=CC(=C1)C=O)O | C8H8O3
reactant | potassium carbonate | 8.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 3-methoxy-4-(2-phenyl-4-oxazolylmethoxy)benzaldehyde | 15.4 g, 97% | COC=1C=C(C=O)C=CC1OCC=1N=C(OC1)C1=CC=CC=C1 | C18H15NO4
